US05492929
To a solution of 5-chloro-3-phenylbenzofuran-2-carboxylic acid (0.66 g) in anhydrous THF (15 ml) were added oxalyl chloride (0.30 ml) and DMF (one drop) at room temperature. The mixture was stirred for 0.5 hour. The solvent was distilled off, and the residue (containing the acid chloride) was dissolved in anhydrous THF (10 ml). To this solution was added an ethyl ether solution of diazomethane (prepared from 1.5 g of N-nitrosomethyl urea). The mixture was stirred for 0.5 hour at room temperature. The solvent was distilled off, and the residue (containing the diazoketone compound) was dissolved in methanol (20 ml). To the solution was added portionwise silver oxide (Ag2O) (0.20 g), while stirring at 50° C. This mixture was stirred with heating under reflux for 3 hours, which was then subjected to filtration with celite. From the filtrate was distilled off the solvent. The residue was purified by means of a silica gel (30 g) column chromatography (hexane - ethyl acetate=5:1) to afford methyl ester of 5-chloro-3-phenylbenzofuran-2-acetic acid as a pale yellow oily product (0.44 g)

reactant | 5-chloro-3-phenylbenzofuran-2-carboxylic acid | 0.66 g | ClC=1C=CC2=C(C(=C(O2)C(=O)O)C2=CC=CC=C2)C1 | C15H9ClO3
reactant | oxalyl chloride | 0.30 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
product | 5-chloro-3-phenylbenzofuran-2-acetic acid | ClC=1C=CC2=C(C(=C(O2)CC(=O)O)C2=CC=CC=C2)C1 | C16H11ClO3
